US05079358
3-Methyl-6-nitroindazole (5.31 g) and 6.93 g of 2-bromo-6-methoxybenzoic acid were subjected to reaction in the same manner as in Example 11 to obtain 1-(2-carboxy-3-methoxyphenyl)-3-methyl-6-nitroindazole (yield: 75.9%). The nitro group of the compound was reduced to give 6-amino-(2-carboxy-3-methoxyphenyl)-3-methylindazole (yield: 100%), which was then cyclized to obtain 1.83 g (28.9%) of 5-amino-7-methoxy-2-methyl-6H-pyrazolo[4,5,1-d,e]acridin-6-one.

reactant | 3-Methyl-6-nitroindazole | 5.31 g | CC1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O2
reactant | 2-bromo-6-methoxybenzoic acid | 6.93 g | BrC1=C(C(=O)O)C(=CC=C1)OC | C8H7BrO3
product | 1-(2-carboxy-3-methoxyphenyl)-3-methyl-6-nitroindazole | yield: 75.9% | C(=O)(O)C1=C(C=CC=C1OC)N1N=C(C2=CC=C(C=C12)[N+](=O)[O-])C | C16H13N3O5
